US06110933
A solution of (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(phenoxycarbonylamino)pentanoyl]oxyhexadecanamide (1.70 g) and 2-aminopyridine (2.56 g) in pyridine (10 ml) was stirred at 70° C. for 64 hours, and then poured into a mixture of ethyl acetate (100 ml) and 1N hydrochloric acid (100 ml). The organic phase was washed with 1N hydrochloric acid (100 ml), 0.5N hydrochloric acid (100 ml), saturated aqueous sodium bicarbonate (100 ml), and brine (50 ml) successively, dried over magnesium sulfate, and evaporated to dryness. The residue was chromatographed on silica gel (300 cc) eluting with a mixture of dichloromethane and acetone (2:1 - 1:1) to give (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{3-(2-pyridyl)ureido}pentanoyl]oxyhexadecanamide (1.14 g).

reactant | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(phenoxycarbonylamino)pentanoyl]oxyhexadecanamide | 1.70 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)OC1=CC=CC=C1 | C36H52N2O7
reactant | 2-aminopyridine | 2.56 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{3-(2-pyridyl)ureido}pentanoyl]oxyhexadecanamide | 1.14 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)NC1=NC=CC=C1 | C35H52N4O6
